US08008327B2
To a stirred solution of 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester (2.0 g, 7.4 mmol) in water (20 mL) and methanol (20 mL) was added a solution of 2 N sodium hydroxide (10 mL). The solution was warmed at reflux for 1 hour. The solution was cooled to room temperature and acidified with 1 N aqueous HCl (pH=3-4). The white solid was obtained by filtration, washed with MeOH (30 mL) and dried to afford 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid.

reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester | 7.4 mmol, 2.0 g | COC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C15H11FN2O2
reactant | sodium hydroxide | 2 N, 10 mL | [OH-].[Na+]
reactant | HCl | 1 N, pH=3-4 | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)C(=O)O | C14H9FN2O2
